US09278931B2
B) N-[4-(trans-2-aminocyclopropyl)phenyl]-3-bromobenzamide hydrochloride
tert-Butyl [trans-2-(4-{[(3-bromophenyl)carbonyl]amino}phenyl)cyclopropyl]carbamate (407 mg) was dissolved in 4N hydrochloric acid/ethyl acetate solution (2 mL), and the mixture was stirred at room temperature for 2 hr. The solvent was evaporated under reduced pressure to give the title compound (320 mg).

reactant | tert-Butyl [trans-2-(4-{[(3-bromophenyl)carbonyl]amino}phenyl)cyclopropyl]carbamate | 407 mg | BrC=1C=C(C=CC1)C(=O)NC1=CC=C(C=C1)[C@H]1[C@@H](C1)NC(OC(C)(C)C)=O | C21H23BrN2O3
reactant | hydrochloric acid ethyl acetate | 4N, 2 mL | Cl.C(C)(=O)OCC
product | N-[4-(trans-2-aminocyclopropyl)phenyl]-3-bromobenzamide hydrochloride | 320 mg | Cl.N[C@H]1[C@@H](C1)C1=CC=C(C=C1)NC(C1=CC(=CC=C1)Br)=O | InChI=1S/C16H15BrN2O.ClH/c17-12-3-1-2-11(8-12)16(20)19-13-6-4-10(5-7-13)14-9-15(14)18;/h1-8,14-15H,9,18H2,(H,19,20);1H/t14-,15+;/m0./s1
